Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia, Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ with a past medical history significant for 
IDDM (prior on metformin, noncompliant, switched to insulin in 
___ who presented with complaints of nausea and vomiting 
for the past several months, and was found to be profoundly 
hyperglycemic with blood sugars >500. This was in the setting of 
not having taken medications for his diabetes for ___ year. He 
also reported an unintentional weight loss of >100 lbs over the 
past year. His workup in the ED was consistent with DKA.

He reported that he was here a year ago and was supposed to be 
seen by ___ but left prior to evaluation. The patient 
endorsed nausea, vomiting, and decreased appetite for several 
months prior to presentation. He was evaluated at ___ over 
___ ___ weekend, and his blood sugars were in the 600s at 
that time. Per the patient, an admission was recommended, 
however, the nurse was very rude to him so left AMA. 

In terms of the patients diabetes care, he is currently not 
taking any medications at home for his diabetes. He was 
apparently started on insulin at PCP office about ___ ago which 
he took for a few months, then was told his insurance would not 
cover his insulin or supplies so he self-discontinued his 
medications. He was previously on metformin, but he was told it 
"wasn't working" so he was started on insulin by his PCP. He 
measures his blood sugars at home sporadically and noted that on 
the day of presentation when he tested his blood sugars his 
glucometer read "HI", prompting evaluation in ED.

Upon presentation to the ED, blood glucose was >600. He was then 
started on an insulin gtt and given IVF with dextrose with 
improvement of his blood sugars to 184 - 306. At the time of 
transfer to the floor, he had received a total of 4 L NS, and 
about 2 L of D5LR. After these interventions, with correction 
for hypernatremia, the patient's anion gap had closed on repeat 
blood work. He was given 20 units of Lantus & 2 units Humalog SC 
given 1530 and his insulin gtt was stopped at 1630. 

Upon arrival to the floor, the patient was resting comfortably 
in bed in no acute distress. He endorses the above history. He 
states that he is feeling better than when he first presented. 
He has complaints of mild nausea, but has not had any vomiting 
since presentation. Complains of mild headache. Complains of 
non-radiating chest pain described at soreness, worse with 
movement. Denies shortness of breath, fevers, chills, 
palpitations, diarrhea, or constipation. 
 
Past Medical History:
- Insulin dependent (likely ketosis prone type II) DM
- Asthma 
 
Social History:
___
Family History:
DM in mother
 
Physical ___:
VITALS: T 98.3, BP 128/82, HR 102, RR 20, O2 92% on RA  
GENERAL: Resting comfortably in bed in no acute distress.
HEENT: Atraumatic. Dry mucous membranes.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: RRR. No murmurs/rubs/gallops.
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased work of 
breathing.
ABDOMEN: Soft, non-distended. +BS. Diffusely tender to 
palpation.
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. No rash on exposed skin. Pedal xeroderma. Poor 
toenail hygiene.
NEUROLOGIC: CN ___ intact. ___ strength throughout. AOx3. 
Decreased pinprick sensation in distal L foot. Steady gait with 
balance intact.
 
Pertinent Results:
___ 08:29PM   PLT SMR-NORMAL PLT COUNT-392
___ 08:29PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL STIPPLED-OCCASIONAL
___ 08:29PM   NEUTS-48 BANDS-2 ___ MONOS-9 EOS-2 
BASOS-0 ___ METAS-1* MYELOS-1* NUC RBCS-1.5* AbsNeut-1.70 
AbsLymp-1.26 AbsMono-0.31 AbsEos-0.07 AbsBaso-0.00*
___ 08:29PM   WBC-3.4* RBC-4.28* HGB-14.4 HCT-39.3* MCV-92 
MCH-33.6* MCHC-36.6 RDW-14.5 RDWSD-46.1
___ 08:29PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:29PM   ALBUMIN-3.3*
___ 08:29PM   cTropnT-<0.01
___ 08:29PM   ALT(SGPT)-<15 AST(SGOT)-<15 ALK PHOS-84 TOT 
BILI-<0.2
___ 08:29PM   estGFR-Using this
___ 08:29PM   GLUCOSE-636* UREA N-12 CREAT-0.6 SODIUM-127* 
POTASSIUM-5.5* CHLORIDE-93* TOTAL CO2-18* ANION GAP-16
___ 08:39PM   O2 SAT-74
___ 08:39PM   LACTATE-1.3
___ 08:39PM   ___ PO2-43* PCO2-39 PH-7.28* TOTAL 
CO2-19* BASE XS--7
___ 09:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000* KETONE-80* BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 09:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:55PM URINE  UHOLD-HOLD
___ 09:55PM URINE  HOURS-RANDOM
___ 11:20PM   GLUCOSE-456* UREA N-12 CREAT-0.6 SODIUM-130* 
POTASSIUM-6.3* CHLORIDE-100 TOTAL CO2-12* ANION GAP-18

___ 06:45AM BLOOD WBC-2.9* RBC-4.33* Hgb-15.3 Hct-41.2 
MCV-95 MCH-35.3* MCHC-37.1* RDW-14.6 RDWSD-48.5* Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-253* UreaN-7 Creat-0.8 Na-133* 
K-5.8* Cl-106 HCO3-19* AnGap-8*
___ 01:46AM BLOOD cTropnT-<0.01
___ 06:45AM BLOOD Calcium-8.5 Phos-2.3* Mg-2.0
___ 06:45AM BLOOD %HbA1c-15.2* eAG-390*
___ 07:11AM BLOOD ___ pO2-136* pCO2-38 pH-7.34* 
calTCO2-21 Base XS--4 Comment-GREEN TOP
___ 06:42AM BLOOD Glucose-244* Na-137 K-3.2* Cl-102
___ 01:33PM BLOOD O2 Sat-___ with a past medical history significant for IDDM (prior on 
metformin, noncompliant, ___ started on insulin) who 
presents for with complaints of nausea and vomiting for the past 
month and was found to be profoundly hyperglycemic, admitted for 
DKA management.

Acute Issues:
=============
# DKA, Insulin Depended Diabetes, Likely Type II
Patient presenting with hyperglycemia and DKA in the setting of 
being off of his home insulin regimen. He has been 
intermittently involved in the medical system but when he was 
last prescribed insulin he was given a prescription for insulin 
pen he was unable to afford the copay ($300). Therefore, he 
never pursued further care. He was treated in ED with insulin 
gtt and 4L NS. His anion gap soon closed. He was eventually 
transitioned to 20 units of Lantus at bedtime with sliding scale 
of Humalog (QACHS 0/___). Prior to discharge, he was 
seen by the ___ diabetes team who recommended the following 
regimen for discharge: glargine 20 units at dinner, Humalog 
sliding scale with meals. He was given the supplies and insulin 
prior to discharge and he should follow up with ___ and his 
PCP ___.

#Chest Pain 
Patient complained of chest pain upon arrival to the floor. He 
states has been having this intermittently for a while. Troponin 
and ECG in the ED were unremarkable. 

Chronic Issues:
==============
#Asthma
He was continued on his home proair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 

 
Discharge Medications:
1.  Glargine 20 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [FreeStyle Lite Strips]  as directed 
four times a day Disp #*100 Strip Refills:*2
RX *blood-glucose meter [FreeStyle Freedom Lite]  as directed as 
directed Disp #*1 Kit Refills:*0
RX *lancets [FreeStyle Lancets] 28 gauge as directed four times 
daily Disp #*100 Each Refills:*2 
2.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: DKA
Secondary: insulin-dependent diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with a very severe condition called 
DKA, or diabetic ketoacidosis, which is caused from very severe 
diabetes. This can be life threatening. Luckily, you were 
treated with insulin and your blood sugar improved 
significantly. It is essential that you follow up with your PCP 
___ as well as the ___ (you will need to 
have Dr. ___ you with this) to follow your blood sugars 
and manage your insulin. We have started you on insulin which 
you will need to continue to take. This is very important 
because you will likely have to come back in the hospital again 
and be very sick if you stop taking insulin.

We wish you all the best!

Sincerely,

Your care team at ___
 
Followup Instructions:
___